US07319099B2
(c) 2-(4-Methoxy-benzyloxy)-5-sulfamoyl-benzoic acid methyl ester
To 4.8 mmol 2-hydroxy-5-sulfamoyl-benzoic acid methyl ester, 5.2 mmol 4-methoxybenzyl alcohol and 5.2 mmol triphenylphosphine in 8 ml THF was added 5.2 mmol di-tert-butyl azodicarboxylate, and the mixture was stirred at RT for 2 h. The mixture was then concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane gradient) to afford the title compound. MS (m/e): 350.2 ([M−H]−, 100%)

reactant | 2-hydroxy-5-sulfamoyl-benzoic acid methyl ester | 4.8 mmol | COC(C1=C(C=CC(=C1)S(N)(=O)=O)O)=O | C8H9NO5S
reactant | 4-methoxybenzyl alcohol | 5.2 mmol | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | triphenylphosphine | 5.2 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 5.2 mmol | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 2-(4-Methoxy-benzyloxy)-5-sulfamoyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(N)(=O)=O)OCC1=CC=C(C=C1)OC)=O | C16H17NO6S
